US09226501B2
Preparation of 3,5-Dibromo-4-chlorobenzaldehyde
Methyl 3,5-dibromo-4-chlorobenzoate: CuCl2 (2.82 g, 21.0 mmol) in MeCN (30 mL) was stirred at 80° C. for 30 min. To this mixture tert-butylnitrite (2.7 mL, 23 mmol) was then added dropwise at same temperature and the mixture was stirred for another 10 min. Methyl 4-amino-3,5-dibromobenzoate (5.0 g, 16 mmol) in MeCN (30 mL) was added dropwise to the reaction mixture and then stirred at 80° C. for 30 min. The reaction mixture was brought to ambient temperature and an aqueous ammonia solution (20 mL) was added to the reaction mixture and extracted with petroleum ether. The organic layer was washed with brine followed by water, dried (Na2SO4), filtered and concentrated to afford the title compound as an off white solid (4.5 g, 84%). 1H NMR (300 MHz, DMSO-d6) δ 8.21 (s, 2H), 3.94 (s, 3H); ESIMS m/z 326 ([M]+); IR (thin film) 1732, 746 cm−1.

reactant | Methyl 3,5-dibromo-4-chlorobenzoate | BrC=1C=C(C(=O)OC)C=C(C1Cl)Br | C8H5Br2ClO2
reactant | tert-butylnitrite | 23 mmol, 2.7 mL | C(C)(C)(C)ON=O | C4H9NO2
reactant | Methyl 4-amino-3,5-dibromobenzoate | 16 mmol, 5.0 g | NC1=C(C=C(C(=O)OC)C=C1Br)Br | C8H7Br2NO2
reactant | ammonia | 20 mL | N | H3N
solvent | MeCN | 30 mL | CC#N | C2H3N
solvent | MeCN | 30 mL | CC#N | C2H3N
product | 3,5-Dibromo-4-chlorobenzaldehyde | BrC=1C=C(C=O)C=C(C1Cl)Br | C7H3Br2ClO
